US05883106
C. 1-Cyano-1-[3-[4-(2-methylimidazol-1-yl)benzyloxy]phenyl]cyclobutane (Claimed Compound)
A mixture of 1-cyano-1-(3-hydroxyphenyl)cyclobutane (1.76 g, 10 mmol), 4-(2-methylimidazol-1-yl)benzylchloride hydrochloride (2.10 g, 10 mmol) and potassium carbonate (6.90 g, 50 mmol) in DMF (80 ml) were stirred together at 80° C. for 3 hrs. Water (200 ml) was added and the mixture extracted with ethyl acetate/benzene (2/1, 100 ml×2), washed with water (100 ml×2), brine (100 ml), dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography (SiO2, 150 g; dichloromethane/methanol (20/1)) to afford 2.90 g (84%) of the titled compound as a clear yellow oil.

reactant | 1-cyano-1-(3-hydroxyphenyl)cyclobutane | 10 mmol, 1.76 g | C(#N)C1(CCC1)C1=CC(=CC=C1)O | C11H11NO
reactant | 4-(2-methylimidazol-1-yl)benzylchloride hydrochloride | 10 mmol, 2.10 g | Cl.CC=1N(C=CN1)C1=CC=C(CCl)C=C1
reactant | potassium carbonate | 50 mmol, 6.90 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 200 ml | O | H2O
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 1-Cyano-1-[3-[4-(2-methylimidazol-1-yl)benzyloxy]phenyl]cyclobutane | 2.90 g, 84% | C(#N)C1(CCC1)C1=CC(=CC=C1)OCC1=CC=C(C=C1)N1C(=NC=C1)C | C22H21N3O
